US06984744B2
Preparation of 1-Phenyl-2-phospholanemethanol-1-oxide
In a 1 l round bottom 2-neck flask charged a with a magnetic stirring bar, 23.4 g 1-phenylphospholane-1-oxide (0.11 mol) was dissolved in 300 ml freshly distilled THF, and 10.4 g dry paraformaldehyde was added. The reaction flask was flushed with argon and cooled to −20° C. Subsequently 100 ml phenyllithium solution in cyclohexane/diethylether 7:3 (1.8M) was added in one portion. The resulting mixture was stirred until the temperature reached +10° C. and additionally 5 minutes at that temperature. Then 10 g NH4Cl was added. The mixture was filtered, concentrated, and the residue purified by flash chromatography (EtOAc, followed by EtOAc/methanol 10:1). Yields: 2.5 g substrate (1-phenylphospholane-1-oxide) (11%), 11.7 g (43%) trans-1-phenyl-2-phospholanemethanol-1-oxide as white crystals, m.p. 109-110° C. (toluene); 1H NMR (500 MHz) δ: 1.70-1.85 (m, 1H), 1.95-2.30 (m, 6H), 3.90-4.00 (m, 2H), 4.19 (t, 1H, J=6.1), 7.45-7.55 (m, 3H), 7.70-7.76 (m, 2H); 31P NMR (200 MHz) δ: 63.3; and 2.2 g (8%) cis-1-phenyl-2-phospholanemethanol-1-oxide, white crystals, m.p. 149-151° C. (toluene); 1H NMR (500 MHz) δ: 1.46-1.57 (m, 1H), 2.02-2.22 (m, 4H), 2.28-2.42 (m, 1H), 2.44-2.58 (m, 1H), 3.32-3.49 (m, 2H), 3.76 (t, 1H, J=5.7), 7.46-7.51 (m, 2H.), 7.52-7.57 (m, 1H), 7.67-7.73 (m, 2H); 31P NMR (200 MHz) δ: 62.7.

reactant | 1-phenylphospholane-1-oxide | 0.11 mol, 23.4 g | C1(=CC=CC=C1)P1(CCCC1)=O | C10H13OP
reactant | paraformaldehyde | 10.4 g | C=O | CH2O
reactant | 1-phenylphospholane-1-oxide | 2.5 g | C1(=CC=CC=C1)P1(CCCC1)=O | C10H13OP
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | C1CCOC1 | C4H8O
product | 1-Phenyl-2-phospholanemethanol-1-oxide | C1(=CC=CC=C1)P1(C(CCC1)CO)=O | C11H15O2P
